US08445522B2
A mixture of 0.70 g of 2-amino-4-(trifluoromethylthio)phenol, 0.83 g of WSC, 0.41 g of isonicotinic acid and 7 ml of pyridine was stirred while heating at 80° C. for three hours. The reaction mixture was cooled to room temperature, and then water was poured into the reaction mixture, followed by extraction with ethyl acetate three times. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.42 g of N-[2-hydroxy-5-trifluoromethylthio)phenyl]isonicotinamide.

reactant | 2-amino-4-(trifluoromethylthio)phenol | 0.70 g | NC1=C(C=CC(=C1)SC(F)(F)F)O | C7H6F3NOS
reactant | WSC | 0.83 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | isonicotinic acid | 0.41 g | C(C1=CC=NC=C1)(=O)O | C6H5NO2
reactant | pyridine | 7 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | isonicotinamide | C(C1=CC=NC=C1)(=O)N | C6H6N2O
